US03988338
4-(3-methylbutylamino)-2-methylthiopyrrolo[2,3-d]pyrimidine:
To 100 mg of 4-chloro-2-methylthiopyrrolo[2,3-d]-pyrimidine was added 2 ml of isopentylamine. The solution was heated at reflux under nitrogen for 2 hours. The resulting dark oil was purified by chromatography on 30 g of Sephadex LH-20, elution with H2O and then with increasing concentrations of EtOH up to 40% EtOH. The appropriate fractions were combined and evaporated to dryness and the solid residue was crystallized from EtOH/H2O to afford white crystals of product, yield 39 mg (38%), m.p. 157°-158° C.

reactant | 4-chloro-2-methylthiopyrrolo[2,3-d]-pyrimidine | 100 mg | ClC1=C2C(NC(=N1)SC)=NC=C2 | C7H6ClN3S
reactant | isopentylamine | 2 ml | C(CC(C)C)N | C5H13N
product | 4-(3-methylbutylamino)-2-methylthiopyrrolo[2,3-d]pyrimidine | CC(CCNC1=C2C(NC(=N1)SC)=NC=C2)C | C12H18N4S
